US06369110B1
A mixture of ethyl 5-phenyl-3-methylpentanoate (0.30 g, 1.36 mmol), a 1N-aqueous sodium hydroxide solution (3 ml), methanol (3 ml) and tetrahydrofuran (3 ml) was stirred at room temperature for 5 hours. The reaction mixture was adjusted to pH 1 with a 1N-aqueous hydrochloric acid solution and extracted with ethyl acetate. The extract solution was washed with water and a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain 0.24 g of 5-phenyl-3-methylpentanoic acid.

reactant | ethyl 5-phenyl-3-methylpentanoate | 1.36 mmol, 0.30 g | C1(=CC=CC=C1)CCC(CC(=O)OCC)C | C14H20O2
reactant | sodium hydroxide | 3 ml | [OH-].[Na+]
reactant | methanol | 3 ml | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 5-phenyl-3-methylpentanoic acid | 0.24 g | C1(=CC=CC=C1)CCC(CC(=O)O)C | C12H16O2
